* Z:\mnt\design.r\spice\examples\3466-1.asc
R1 N002 0 24.9K
R2 N004 0 63.4K
L1 IN N001 33µ
V1 IN 0 3
V2 N003 0 2
C1 OUT 0 1µ
R3 OUT N002 475K
Rload OUT 0 533
XU1 OUT N001 IN MP_01 MP_02 MP_03 MP_04 N004 N003 N002 0 LT3466-1
.tran 1m startup
.lib LT3466-1.sub
.backanno
.end
